US08012976B2
A mixture of 4-(9-(1-methyl-1H-imidazol-2-yl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde (80 mg, 0.22 mmol), acetic acid (60 uL) and 27% dimethylamine alcohol solution (2.5 mL, 15 mmol) in acetonitrile (7 mL) was stirred at room temperature for 4 h. Then the mixture was cooled to 0° C. NaBH3CN (36 mg, 0.67 mmol) was added. After the addition, the mixture was stirred at room temperature for 4 hr. Methanol was removed under reduced pressure. The residue was washed with ethyl acetate and filtered. The filtrate was concentrated to give 8-(4-((dimethylamino)methyl)phenyl)-9-(1-methyl-1H-imidazol-2-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (30 mg, yield 34%) as a white solid. 1H-NMR: (400 MHz, DMSO-d6) δ (ppm): 2.11 (s, 6H), 3.36 (s, 2H), 3.37 (s, 3H), 4.65 (d, J=10.4 Hz, 1H), 4.92 (d, J=10.4 Hz, 1H), 6.76 (s, 1H), 6.89 (s, 1H), 7.20 (d, J=7.6 Hz, 3H), 7.35 (d, J=8.0 Hz, 2H), 7.43 (d, J=6.8 Hz, 1H), 7.62 (t, J=7.8 Hz, 1H); LC-MS (ESI) m/z: 401 (M+1)+.

reactant | 4-(9-(1-methyl-1H-imidazol-2-yl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde | 0.22 mmol, 80 mg | CN1C(=NC=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=C(C=O)C=C2 | C21H17N5O2
reactant | acetic acid | 60 uL | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | 0.67 mmol, 36 mg | [BH3-]C#N.[Na+]
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | 8-(4-((dimethylamino)methyl)phenyl)-9-(1-methyl-1H-imidazol-2-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 30 mg, yield 34% | CN(C)CC1=CC=C(C=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C=1N(C=CN1)C | C23H24N6O
